US04788210
starting from 3-(o-fluorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole and ethyl bromide there is obtained a mixture of isomeric N-ethyltriazoles and therefrom there are obtained pure 1-ethyl-3-(o-fluorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 72°-74° C.; and pure 1-ethyl-5-(o-fluorophenyl)-3-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, 1H-NMR(CDCl3): 1.51 (t, CH3), 4.23 (q, CH2), 7.05-8.1 (8 aromatic H);

reactant | 3-(o-fluorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | FC1=C(C=CC=C1)C1=NNC(=N1)C1=C(C=CC=C1)C(F)(F)F | C15H9F4N3
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 1-ethyl-3-(o-fluorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | C(C)N1N=C(N=C1C1=C(C=CC=C1)C(F)(F)F)C1=C(C=CC=C1)F | C17H13F4N3
